data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(F)cc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "COc1ccc(F)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "COc1ccc(F)cc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "COc1ccc(F)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "COc1ccc(F)cc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "COc1ccc(F)cc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "COc1ccc(F)cc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "COc1ccc(F)cc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "COc1ccc(F)cc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "COc1ccc(F)cc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "COc1ccc(F)cc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "COc1ccc(F)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "COc1ccc(F)cc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "COc1ccc(F)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "COc1ccc(F)cc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "COc1ccc(F)cc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1OC.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1OC.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(F)CC1OC", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(F)CC2OC.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(F)CC2OC", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(F)CC2OC"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(Cl)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1cc(Cl)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1cc(Cl)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)cc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)cc1OC", "products": "COc1cc(Cl)ccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CCc1cccc(C(=O)C2C3CCC2C3)c1", "products": "CCc1cccc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "CCc1cccc([C]([O])C2C3CCC2C3)c1", "products": "CCc1cccc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "CCc1cccc(C([O])=CC2C[CH]CC2)c1", "products": "CCc1cccc(C(O)=CC2C=CCC2)c1"}, {"reactants": "CCc1cccc(C(O)=CC2C=CCC2)c1", "products": "CCc1cccc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2Cl)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1Cl"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)cc1Cl", "products": "COc1cc2c(cc1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(cc1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(cc1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(cc1Cl)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(cc1Cl)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2cc1Cl.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)COC)c([Si](C)(C)C)c2F", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)COC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)COC)cc1=C", "products": "COC[Si](C)(C)c1cc2c(c(F)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c1=C", "products": "C[C@]12CC[C@@H]3c4c(F)c([Si](C)(C)C)c([Si](C)(C)C)c(Cl)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1ccc(N(C)C(=O)C2=CCCC2)c(Br)c1Cl.[Pd]", "products": "Cc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1Cl"}, {"reactants": "Cc1ccc(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1Cl", "products": "Cc1ccc2c(c1Cl)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1ccc2c(c1Cl)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1ccc2c(c1Cl)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
